US05834463
(3aR*,10aS*)-9-Benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one hydrochloride
In ethanol was dissolved (3aR*,10aS*)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one. To the solution was added dropwise a 2.5N HCl-ethanol solution, and the mixture was concentrated under reduced pressure. The concentrate was recrystallized from ethanol-ether to give the titled compound. m.p. 145°-148° C.

reactant | HCl ethanol | 2.5N | Cl.C(C)O
reactant | (3aR*,10aS*)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | C(C1=CC=CC=C1)N1C2=C(N[C@H]3[C@@H](C1=O)CCC3)C=CC=C2 | C19H20N2O
solvent | ethanol | C(C)O | C2H6O
product | (3aR*,10aS*)-9-Benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C2=C(N[C@H]3[C@@H](C1=O)CCC3)C=CC=C2 | InChI=1S/C19H20N2O.ClH/c22-19-15-9-6-11-16(15)20-17-10-4-5-12-18(17)21(19)13-14-7-2-1-3-8-14;/h1-5,7-8,10,12,15-16,20H,6,9,11,13H2;1H/t15-,16+;/m0./s1
